US09029359B2
(R)—N-(1-(6-aminopyrimidin-4-yl)piperidin-3-yl)-2-(3,5-dichlorophenylamino)acetamide
The title compound of Example 145 was prepared in similar manner as described in Example 134 except the key intermediate (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate was replaced with (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate and the 4-amino-6-chloropyrimidine-5-carbonitrile was substituted for 6-chloropyrimidin-4-amine. 1H NMR (400 MHz, DMSO-d6) δ 8.18 (s, 1H), 8.00 (d, J=7.28 Hz, 1H), 7.50 (br. s., 2H), 6.54-6.70 (m, 1H), 6.47 (d, J=1.76 Hz, 3H), 3.98 (br. s., 1H), 3.84 (br. s., 1H), 3.55-3.71 (m, 6H), 3.06 (dd, J=8.91, 12.93 Hz, 2H), 1.76 (br. s., 3H), 1.38-1.60 (m, 3H). EIMS (m/z): calcd. for C17H20Cl2N6O (M+1H) 395. found 395.

reactant | (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)F)N[C@@H](C(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1CC1 | C21H29ClFN3O3
reactant | (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H25Cl2N3O3
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | 6-chloropyrimidin-4-amine | ClC1=CC(=NC=N1)N | C4H4ClN3
product | (R)—N-(1-(6-aminopyrimidin-4-yl)piperidin-3-yl)-2-(3,5-dichlorophenylamino)acetamide | NC1=CC(=NC=N1)N1C[C@@H](CCC1)NC(CNC1=CC(=CC(=C1)Cl)Cl)=O | C17H20Cl2N6O
